US04680402
[2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(2-chlorophenyl)- methanone
A mixture of 0.012 mole (3.6 g) of 2,2'-dichloro-5-nitrobenzophenone, of 0.018 mole (1.8 g ) of 4-methylpiperidine and of 0.012 mole (1.7 g) of potassium carbonate in 100 cm3 of anhydrous ethanol is heated for 1 hour to reflux.

reactant | 2,2'-dichloro-5-nitrobenzophenone | 0.012 mole, 3.6 g | ClC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO3
reactant | 4-methylpiperidine | 0.018 mole, 1.8 g | CC1CCNCC1 | C6H13N
reactant | potassium carbonate | 0.012 mole, 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | [2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(2-chlorophenyl)- methanone | CC1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=C(C=CC=C1)Cl | C19H19ClN2O3
